US06642389B2
e] 3-[2-(4-Methoxy-phenyl)-5-methyl-oxazol-4-yl]-propan-1-ol
The above prepared 4-allyl-2-(4-methoxy-phenyl)-5-methyl-oxazole (4.51 g, 19.7 mmol) was dissolved in 60 ml of abs. THF and and treated at 0° with 100 ml of 9-BBN-solution (0.5 M hexane). Hydroboration was allowed to proceed for 2 h at RT. Afterwards, 56 ml of 3N NaOH and 114.5 ml of 30% H2O2 was added simultaneously, whereby the internal temperature rose to 45°. After 1 h, the heterogeneous mixture was diluted with ice and water, extracted twice with AcOEt, washed water, and dried over natrium sulfate. Evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=1/3) yielded 4.54 g of the title compound as colorless oil.

reactant | 4-allyl-2-(4-methoxy-phenyl)-5-methyl-oxazole | 19.7 mmol, 4.51 g | C(C=C)C=1N=C(OC1C)C1=CC=C(C=C1)OC | C14H15NO2
reactant | 9-BBN | 0.5 M, 100 ml | B1C2CCCC1CCC2 | C8H15B
reactant | NaOH | 3N, 56 ml | [OH-].[Na+]
reactant | H2O2 | 114.5 ml | OO | H2O2
solvent | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 3-[2-(4-Methoxy-phenyl)-5-methyl-oxazol-4-yl]-propan-1-ol | 4.54 g | COC1=CC=C(C=C1)C=1OC(=C(N1)CCCO)C | C14H17NO3
